US07399775B2
1-(2,5-Difluorophenyl)-5-(methylsulfonyl)-1-pentanol
A tetrahydrofuran (5 ml) solution of 1-bromo-2,5-difluorobenzene (0.151 ml, 1.34 mmol) was stirred at −78° C. To the resulting mixture was added a hexane solution (0.843 ml, 1.34 mmol) of n-butyl lithium. The reaction mixture was added to a tetrahydrofuran (5 ml) solution of 5-(methylsulfonyl)pentanal (183 mg, 1.11 mmol) at −78° C. and at the same temperature, stirring was conducted for 30 minutes. After elevating the temperature of the reaction mixture to room temperature, diethyl ether was added thereto. The resulting mixture was washed successively with a saturated aqueous solution of ammonium chloride and a saturated aqueous solution of sodium bicarbonate. The organic layer was then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, and the fraction obtained from the hexane:ethyl acetate=1:2 eluate was concentrated under reduced pressure, whereby the title compound (116 mg, 0.42 mmol, 37%) was obtained as a colorless oil.

reactant | 1-bromo-2,5-difluorobenzene | 1.34 mmol, 0.151 ml | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | hexane | 1.34 mmol, 0.843 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5-(methylsulfonyl)pentanal | 1.11 mmol, 183 mg | CS(=O)(=O)CCCCC=O | C6H12O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(2,5-Difluorophenyl)-5-(methylsulfonyl)-1-pentanol | 0.42 mmol, 116 mg, 37% | FC1=C(C=C(C=C1)F)C(CCCCS(=O)(=O)C)O | C12H16F2O3S
